US05088978
(b) Preparation of 4-(4-Benzyloxyphenyl)butanol
To a solution of 4-(4-hydroxyphenyl)butanol (125 g, 0.75 mole) in acetone 0.85.8 g (1.25 mole) anhydrous potassium carbonate (285.8 g, 1.25 mole) was added, followed by 160.8 (0.94 mole) benzyl bromide. The reaction mixture was then heated at reflux for 25 hours. After cooling to room temperature, the reaction mixture was filtered and the filter cake washed with acetone. The filtrate was concentrated to dryness. The solid residue was washed twice with 500 ml hexane. After drying under high vacuum overnight, 161 g of the desired product were obtained, which was homogeneous on TLC. The 1H NMR spectrum was consistent with the assigned structure.

reactant | 4-(4-hydroxyphenyl)butanol | 0.75 mole, 125 g | OC1=CC=C(C=C1)CCCCO | C10H14O2
reactant | potassium carbonate | 1.25 mole, 285.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | CC(=O)C | C3H6O
product | 4-(4-Benzyloxyphenyl)butanol | 161 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCCO | C17H20O2
